US06274588B1
In an analogous manner to that described in example 3b) starting from 2-benzoyl-3-dimethylamino-acrylic acid ethyl ester and 2-hydroxy-acetamidine hydrochloride followed by saponification as described in Example 3c), there was obtained 2-hydroxymethyl-4-phenyl-pyrimidine-5-carboxylic acid.

reactant | 2-benzoyl-3-dimethylamino-acrylic acid ethyl ester | C(C)OC(C(=CN(C)C)C(C1=CC=CC=C1)=O)=O | C14H17NO3
reactant | 2-hydroxy-acetamidine hydrochloride | Cl.OCC(=N)N
product | 2-hydroxymethyl-4-phenyl-pyrimidine-5-carboxylic acid | OCC1=NC=C(C(=N1)C1=CC=CC=C1)C(=O)O | C12H10N2O3
